US07091382B2
N-methyl-N-phenylaminoacrolein
To a solution of N-methylformanilide (30 g), butyl vinyl ether (22.2 g) in 25 ml of 1,4-dioxane under stirring at 10–15° C., a solution of bis-trichloromethylcarbonate (28.3 g) in 50 ml of 1,4-dioxane is added dropwise in 90 min. The reaction mixture is kept under stirring at room temperature overnight, then the solvent is evaporated under reduced pressure. Tert-butyl methyl ether (75 ml) and water (55 ml) are added, the mixture is cooled at about 5–10° C. and the pH is corrected to about 7 by adding sodium hydroxide 30% aqueous solution (55 g). After separation of the phases, the aqueous layer is extracted with tert-butyl methyl ether (70 ml) and the combined organic layers are evaporated under reduced pressure. To the residue tert-butyl methyl ether (50 ml) is added and the mixture is cooled at −15° C. for 90 minutes. The precipitate is filtered on Buchner, washed twice with tert-butyl methyl ether (25 ml×2) and dried at room temperature under vacuum overnight. 25.21 g of pure compound are obtained (70% molar yield)

reactant | N-methylformanilide | 30 g | CN(C1=CC=CC=C1)C=O | C8H9NO
reactant | butyl vinyl ether | 22.2 g | C(=C)OCCCC | C6H12O
reactant | bis-trichloromethylcarbonate | 28.3 g | ClC(Cl)(Cl)OC(OC(Cl)(Cl)Cl)=O | C3Cl6O3
solvent | 1,4-dioxane | 25 ml | O1CCOCC1 | C4H8O2
solvent | 1,4-dioxane | 50 ml | O1CCOCC1 | C4H8O2
product | N-methyl-N-phenylaminoacrolein | 25.21 g | CN(C1=CC=CC=C1)C(=O)C=C | C10H11NO
